US08349863B2
10 grams of topotecan base was suspended in 100 ml Methanol, and 2.4 ml HCl was added at 25-30° C. and stirred for 1 hour at 25-30° C., the suspension was further chilled to 10-15° C. and stirred for 1 hour at 10-15° C. and filtered, washed with 5 ml of methanol. The product was dried in vacuum at 25-30° C. for 5 hours, followed by drying at 30-35° C. for 36 hours to get 8.0 g of topotecan hydrochloride form A.

reactant | topotecan | 10 grams | CC[C@@]1(C2=C(COC1=O)C(=O)N3CC=4C=C5C(C=CC(=C5CN(C)C)O)=NC4C3=C2)O | C23H23N3O5
reactant | HCl | 2.4 ml | Cl | ClH
solvent | Methanol | 100 ml | CO | CH4O
product | topotecan hydrochloride | 8.0 g | CC[C@@]1(C2=C(COC1=O)C(=O)N3CC=4C=C5C(C=CC(=C5CN(C)C)O)=NC4C3=C2)O.Cl | InChI=1S/C23H23N3O5.ClH/c1-4-23(30)16-8-18-20-12(9-26(18)21(28)15(16)11-31-22(23)29)7-13-14(10-25(2)3)19(27)6-5-17(13)24-20;/h5-8,27,30H,4,9-11H2,1-3H3;1H/t23-;/m0./s1
